US06875771B2
2-(3-Benzenesulfonyl-4-imino-4H-pyrido[1,2-a]pyrimidin-2-ylamino)-ethanol
To a one dram vial was added 20 mg (0.0604 mmol) of 3-(benzenesulfonyl)-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-ylideneamine and 1.1 equivalents of ethanolamine in 750 ml of DMF. The vial was fitted with a TEFLON® lined cap and heated to 55° C. over night. The resulting product was then purified on a reverse phase preparative HPLC (XTerra™ MS C18 5.0 mM, MeOH/H2O as the eluent) to give 23 mg of the title compound as a brown solid; 10% yield.

reactant | 3-(benzenesulfonyl)-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-ylideneamine | 0.0604 mmol, 20 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(N=C2N(C1=N)C=CC=C2)SC | C15H13N3O2S2
reactant | ethanolamine | 1.1 equivalents | C(O)CN | C2H7NO
solvent | DMF | 750 ml | CN(C)C=O | C3H7NO
product | 2-(3-Benzenesulfonyl-4-imino-4H-pyrido[1,2-a]pyrimidin-2-ylamino)-ethanol | 23 mg, 10% yield | C1(=CC=CC=C1)S(=O)(=O)C1=C(N=C2N(C1=N)C=CC=C2)NCCO | C16H16N4O3S
